US08895583B2
Step A. tert-butyl 4-(4-bromo-2-formylphenyl)piperazine-1-carboxylate
To a solution of 5-bromo-2-fluorobenzaldehyde (1.62 g, 8.08 mmol) in NMP was added piperazine (1.39 g, 16.2 mmol) and DIEA (4.22 mL, 24.2 mmol). The resulting mixture was degassed via nitrogen sparge and stirred at 150° C. for 1 h. The mixture was added di-tert-butyl dicarbonate (3.52 g, 16.2 mmol) and stirred at ambient temperature for an additional 30 min. The reaction mixture was then quenched with 2N HCl in water, extracted with ethyl acetate, and the organic phase was dried with sodium sulfate and concentrated in vacuo. Purification by chromatography on silica gel (0 to 30% EtOAc in hexanes, then 30 to 100% EtOAc in hexanes) provided the title compound: LCMS m/z 312.7 [M-tBu+2H]+; 1H NMR (500 MHz, acetone-d6) δ 10.27 (s, 1 H),7.82 (d, J=2.6 Hz, 1 H),7.72 (dd, J=8.7, J=2.5 Hz, 1 H),7.22 (d, J=8.7 Hz, 1 H), 3.62 (m, 2 H),3.07 (m, 2 H),2.81 (m, 2 H),2.04 (m, 2 H),1.43 (s, 9 H).

reactant | 5-bromo-2-fluorobenzaldehyde | 8.08 mmol, 1.62 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | piperazine | 16.2 mmol, 1.39 g | N1CCNCC1 | C4H10N2
reactant | DIEA | 24.2 mmol, 4.22 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 16.2 mmol, 3.52 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | NMP | CN1CCCC1=O | C5H9NO
product | tert-butyl 4-(4-bromo-2-formylphenyl)piperazine-1-carboxylate | BrC1=CC(=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C=O | C16H21BrN2O3
